US08378104B2
Step B: 2-(thieno[2,3-d]pyridazin-3-yl)furo[2,3-c]pyridin-7-amine
A suspension of {7-[bis(tert-butoxycarbonyl)amino]furo[2,3-c]pyridin-2-yl}boronic acid (200.0 mg, 0.5288 mmol), 3-bromothieno[2,3-d]pyridazine (77.1 mg, 0.358 mmol), Pd(PPh3)4 (21.8 mg, 0.0189 mmol), and potassium carbonate (150.5 mg, 1.089 mmol) in a 4:1 mixture of 1,4-dioxane to water (3.5 mL) was heated conventionally to 70° C. for 2.5 h. To the stirring reaction at 70° C., 4.0 M hydrochloric acid in 1,4-dioxane (2.0 mL) was added and was stirred for 1 h. The reaction mixture was cooled to ambient temperature, poured into saturated aqueous sodium bicarbonate, and extracted with dichloromethane. The combined organic layers were washed with brine, dried over anhydrous Na2SO4, filtered, and concentrated in vacuo. Purification by ISCO chromatography (3 to 15% methanol:dichloromethane) afforded 30.6 mg (31%) of the title compound as a yellow solid. 1H NMR (400 MHz, DMF-d7): δ 10.43 (d, J=1.52 Hz, 1H), 10.10 (d, J=1.52 Hz, 1H), 8.92 (s, 1H), 7.83 (d, J=5.31 Hz, 1H), 7.67 (s, 1H), 6.95 (d, J=5.31 Hz, 1H), 6.66 (br s, 2H); MS (ESI): 269.13 [M+H]+; HPLC tR=2.16 min.

reactant | {7-[bis(tert-butoxycarbonyl)amino]furo[2,3-c]pyridin-2-yl}boronic acid | 0.5288 mmol, 200.0 mg | C(C)(C)(C)OC(=O)N(C=1N=CC=C2C1OC(=C2)B(O)O)C(=O)OC(C)(C)C | C17H23BN2O7
reactant | 3-bromothieno[2,3-d]pyridazine | 0.358 mmol, 77.1 mg | BrC1=CSC2=CN=NC=C21 | C6H3BrN2S
reactant | potassium carbonate | 1.089 mmol, 150.5 mg | C([O-])([O-])=O.[K+].[K+]
reactant | hydrochloric acid | 4.0 M | Cl | ClH
reactant | sodium bicarbonate | C([O-])(O)=O.[Na+]
solvent | 1,4-dioxane | 2.0 mL | O1CCOCC1 | C4H8O2
catalyst | Pd(PPh3)4 | 0.0189 mmol, 21.8 mg | C=1C=CC(=CC1)[P](C=2C=CC=CC2)(C=3C=CC=CC3)[Pd]([P](C=4C=CC=CC4)(C=5C=CC=CC5)C=6C=CC=CC6)([P](C=7C=CC=CC7)(C=8C=CC=CC8)C=9C=CC=CC9)[P](C=1C=CC=CC1)(C=1C=CC=CC1)C=1C=CC=CC1
solvent | water | 3.5 mL | O | H2O
product | 2-(thieno[2,3-d]pyridazin-3-yl)furo[2,3-c]pyridin-7-amine | 30.6 mg, 31% | S1C=C(C=2C1=CN=NC2)C2=CC=1C(=C(N=CC1)N)O2 | C13H8N4OS
